US04159331
In the manner given in Example 5B, 1-[(p-nitrophenyl)sulfonyl]-4-[3,5-di(trifluoromethyl)-phenyl]piperazine is reduced with hydrogen over PtO2 to give 1-[(p-aminophenyl)sulfonyl]-4-[3,5-di(trifluoromethyl)phenyl]piperazine.

reactant | 1-[(p-nitrophenyl)sulfonyl]-4-[3,5-di(trifluoromethyl)-phenyl]piperazine | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C18H15F6N3O4S
reactant | hydrogen | [H][H] | H2
catalyst | PtO2 | O=[Pt]=O
product | 1-[(p-aminophenyl)sulfonyl]-4-[3,5-di(trifluoromethyl)phenyl]piperazine | NC1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C18H17F6N3O2S
